US04518602
To 2-methylcaprolactone (1.8 g, 14 mmole) was added a solution mixture of 47% aqueous hydrobromic acid (10.5 ml) and concentrated sulfuric acid (2.6 ml), and the reaction was conducted under heating at 130° C. for 3 hours. After the reaction solution was cooled, water was added, and the product was extracted with ether. The organic layer was washed with water, dried and the solvent was evaporated in vacuo. The residue was chromatographed on a column of silica gel using isopropyl ether to give 6-bromo-2-methylhexanoic acid (1.56 g, 53.3%) [NMR (δ value): 1.18 (3H,d,6 Hz), 2.25-2.8 (1H,m), 3.40 (2H,t,6 Hz), 11.56 (1H,COOH)].

reactant | 2-methylcaprolactone | 14 mmole, 1.8 g | CC1C(=O)OCCCC1 | C7H12O2
reactant | hydrobromic acid | 10.5 ml | Br | BrH
reactant | sulfuric acid | 2.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 6-bromo-2-methylhexanoic acid | 1.56 g, 53.3% | BrCCCCC(C(=O)O)C | C7H13BrO2
